US08877794B2
46.6 3 3-Benzyl-3-(3-methoxy-phenyl)-azetidine-1-carboxylic acid ethyl ester
To a stirred and cooled solution of 3-benzyl-3-(3-methoxyphenyl)azetidine (0.45 g, 1.776 mmol) under argon in dichloromethane containing diisopropylamine (0.465 ml, 2.66 mmol) was added dropwise ethyl chloroformate (0.26 ml, 2.7 mmol). The reaction was stirred over night while it was allowed to warm up to room temperature. Hydrochloric acid (1N) was added and the mixture diluted with dichloromethane. The organic layer was separated and the aqueous layer extracted twice with dichloromethane. The combined organic layers were washed subsequently with water, sodium bicarbonate and brine, dried over sodium bicarbonate, filtered and the solvent evaporated to obtain desired product. m=546 mg (61%)

reactant | 3-benzyl-3-(3-methoxyphenyl)azetidine | 1.776 mmol, 0.45 g | C(C1=CC=CC=C1)C1(CNC1)C1=CC(=CC=C1)OC | C17H19NO
reactant | diisopropylamine | 2.66 mmol, 0.465 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl chloroformate | 2.7 mmol, 0.26 ml | ClC(=O)OCC | C3H5ClO2
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Benzyl-3-(3-methoxy-phenyl)-azetidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(C1)(C1=CC(=CC=C1)OC)CC1=CC=CC=C1 | C20H23NO3
